US04963566
8-Carboxythiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline hydrochloride (27.9 g) and 5-methoxy-o-phenylenediamine (13.8 g) in 4N hydrochloric acid (100 ml) were refluxed for 40 minutes. The reaction mixture was cooled, neutralized with aqueous ammonia and extracted with chloroform. After drying the extract, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography [eluent:n-hexane-ethyl acetate (4:1)] to give 8-(5-methoxy-2-benzimidazolyl)thiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline (5.0 g).

reactant | 8-Carboxythiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline hydrochloride | 27.9 g | Cl.C(=O)(O)SCC=1C=CC=C2CCCN(C12)C
reactant | 5-methoxy-o-phenylenediamine | 13.8 g | COC=1C=CC(=C(C1)N)N | C7H10N2O
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 4N, 100 ml | Cl | ClH
product | 8-(5-methoxy-2-benzimidazolyl)thiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline | 5.0 g | COC1=CC2=C(N=C(N2)SCC=2C=CC=C3CCCN(C23)C)C=C1 | C19H21N3OS
